US04128530
4-(Benzylthio)phenol was prepared as follows. Seventy grams of 4-mercaptophenol, 30 drops of toluene sulfonic acid and 100 milliliters of benzene were placed in a flask. Eighty-three grams of benzyl alcohol were added and the flask contents stirred at reflux for five hours to collect the water formed. A white substance precipitated from solution and was filtered. It was washed with hexane. The substance had a melting point of 96° C. to 98° C., a percent sulfur of 14.4 and a hydroxyl number of 259.

reactant | 4-mercaptophenol | Seventy grams | SC1=CC=C(C=C1)O | C6H6OS
reactant | benzyl alcohol | Eighty-three grams | C(C1=CC=CC=C1)O | C7H8O
catalyst | toluene sulfonic acid | 30 drops | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | 4-(Benzylthio)phenol | C(C1=CC=CC=C1)SC1=CC=C(C=C1)O | C13H12OS
